US07425634B2
(51f) 4-chloro-3-ethyl-2-methylpyridine1-oxide
First, 3-ethyl-2-methyl-4-nitropyridine 1-oxide (3.37 g, 18.5 mmol) was added to acetyl chloride (20 ml, 281 mmol) in a nitrogen atmosphere at −30° C. The mixture was stirred at −30 to 0° C. for 3 hours. After the reaction mixture was concentrated, the residue was partitioned by chloroform and a saturated aqueous sodium hydrogen carbonate solution. After insoluble substance was removed by filtration, the aqueous layer was extracted twice with chloroform. The organic layers were combined and dried over anhydrous magnesium sulfate, filtrated and concentrated. The residue was purified by silica gel column chromatography (NH silica gel: 100 g, elution solvent: heptane, heptane/ethyl acetate=50/50) to obtain the title compound (2.10 g, yield: 66.1%) as a yellow oil.

reactant | 3-ethyl-2-methyl-4-nitropyridine 1-oxide | 18.5 mmol, 3.37 g | C(C)C=1C(=[N+](C=CC1[N+](=O)[O-])[O-])C | C8H10N2O3
reactant | acetyl chloride | 281 mmol, 20 ml | C(C)(=O)Cl | C2H3ClO
product | 4-chloro-3-ethyl-2-methylpyridine1-oxide | 2.10 g, yield: 66.1% | ClC1=C(C(=[N+](C=C1)[O-])C)CC | C8H10ClNO
